Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
She is a ___ year old female smoker with recent NSTEMI (TnI 0.231 
ng/dL) at ___ s/p BMS ___ (due to menorrhagia) to 
pLAD ___ presenting with chest tightness radiating to left arm 
which feels similar to prior stent.  

She has not missed any doses of aspirin or prasugrel. She was 
pain-free after her revascularization on ___ and was discharged. 
This AM (___) at 10:30am she experienced acute onset 
pressure-type central chest pain radiating to her left arm which 
worsened so she called ___. She was given SL NTG with 
improvement in chest pain. After arrival here she was given more 
SL NTG with resolution of chest pain. It has however recurred 
and she currently has ___ chest pressure. She thinks it feels 
similar, but less severe compared to pain prior to her recent 
MI.  

In the ED On exam, she is slightly bradycardic, but no murmurs 
and notably no rubs. A focused informal TTE showed no clear 
pericardial effusion (but likely small anterior fat bad).  

In the ED, initial vitals were:  98.0 71 106/68 20 100% RA 
- Exam notable for:  no murmurs and notably no rubs 
- Labs notable for:  

EKG notable for:

ECG (___) (cards fellow read): NSR, anterior deep TWI from 
V2-V4.

ECG (___) (cards fellow read): Low right atrial rhythm vs. 
ectopic atrial rhythm TWI in III, T-wave flattening in V3-V4, no 
other clear ischemic STTW changes
my read: HR 66 nl axis SR no ST depressions or elevations V3-V6 
TW flattening 

Imaging was notable for:

Cath report from ___ (___): Severe disease involving 
the mid LAD bifurcation with large diagonal. Ostial diagnonal 
had mild disease. The LAD was successfully treated with 
angioplasty and placement of bare metal stent, 3.5x20mm, which 
was post-dilated with a short 3.5 balloon. Proximal perivesical 
optimization was performed with the same balloon. Diagonal 
disease appeared rather unchanged. LCx and RCA were normal. 
"Developed catheter-induced vasospasm in the RCA which improved 
with nitroglycerin"

CXR in ED:
No acute cardiopulmonary process.

- Cardiology was consulted:  It was felt via her EKG she was 
unlikely to be having in stent thrombosis, especially consider 
troponin was negative. It was felt the likely etiology of jher 
pain was angina, so decision was made to admit to ___ to 
consider relook angiography. BI fellow (Dr. ___ managed to 
reach ___ who agreed to send films by courier in 
AM.  
- Patient was given:  morphine 2 mg X2, SL nitro, atorvastatin 
40 mg 
- Vitals prior to transfer:  

Upon arrival to the floor, patient reports that during work 
today while at ___ she had slight nausea, deep chest pressure 
and pain radiating to arms B/L. She reports pain as similar, but 
less intensity than pain that triggered Cath on ___. She also 
reports that in retrospect she has had a few of these events 
throughout the year, at rest, which she attributed to heartburn 
or anxiety.
  

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) 10 point ROS reviewed and negative unless stated above in 
HPI 
 

 
Past Medical History:
LEFT KIDNEY CYST S/P PARTIAL NEPHRECTOMY
Back pain
CAD s/p DES ___ 
 
Social History:
___
Family History:
No FH of cardiac disease
 
Physical Exam:
ADMISSION EXAM 
Vital Signs:  BP 110/66 HR 58 RR 18 99 % RA
General: Alert, oriented, no acute distress.   
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL. 
Self report slight epigsatric discomfort   
Neck: Supple. JVP not elevated. no LAD  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

Discharge Exam 
General: Alert, oriented, no acute distress.   
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL 
Neck: Supple. JVP not elevated. no LAD  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

 
Pertinent Results:
ADMISSION LABS
=============

___ 01:20PM BLOOD WBC-6.2 RBC-4.44 Hgb-8.4*# Hct-29.7* 
MCV-67*# MCH-18.9*# MCHC-28.3*# RDW-21.4* RDWSD-49.5* Plt ___
___ 01:20PM BLOOD Neuts-59.7 ___ Monos-9.5 Eos-3.9 
Baso-0.8 Im ___ AbsNeut-3.69 AbsLymp-1.60 AbsMono-0.59 
AbsEos-0.24 AbsBaso-0.05
___ 01:20PM BLOOD Plt ___
___ 01:20PM BLOOD Glucose-86 UreaN-14 Creat-0.8 Na-140 
K-3.7 Cl-104 HCO3-26 AnGap-14
___ 06:25AM BLOOD ALT-17 AST-16 LD(LDH)-163 AlkPhos-64 
TotBili-0.5
___ 06:25AM BLOOD Albumin-3.9 Calcium-8.9 Phos-4.4 Mg-2.1
___ 10:35AM BLOOD D-Dimer-217
___ 01:20PM BLOOD cTropnT-<0.01
___ 07:10PM BLOOD cTropnT-<0.01
___ 12:35AM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD cTropnT-<0.01

MICRO
___ 6:50 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING
___ chest xray 
IMPRESSION:    
No acute cardiopulmonary process. 

___ echo
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Normal left ventricular wall thickness, 
cavity size, and global systolic function (3D LVEF = 67 %). 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are normal. No aortic stenosis or aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Normal biventricular cavity size and 
regional/global systolic function. No valvular pathology or 
pathological flow identified.  

DISCHARGE LABS

___ 06:25AM BLOOD WBC-4.7 RBC-4.95 Hgb-9.2* Hct-33.0* 
MCV-67* MCH-18.6* MCHC-27.9* RDW-22.6* RDWSD-50.0* Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-89 UreaN-13 Creat-0.7 Na-141 
K-4.2 Cl-103 HCO3-26 AnGap-16
___ 06:25AM BLOOD Calcium-9.2 Phos-4.6* Mg-2.___ year old female smoker with recent NSTEMI at ___ 
___ status post bare metal stent to proximal LAD ___ 
presenting with chest pain 

ACTIVE ISSUES: 
#Chest pain: PCI on ___ of proximal LAD. Presented with atypical 
chest pain concerning for vasospasm vs non cardiac etiology. ECG 
without signs of ischemia and biomarkers negative. Echo showed 
normal biventricular cavity size and regional/global systolic 
function. No valvular pathology or pathological flow identified. 
Anterior bilateral chest pain reproducible on exam. D-dimer was 
negative. Amlodipine was to prevent vasopasm and chest pain did 
not return. Of note beta blocker was not added due to soft blood 
pressure and it was thought the amlodipine was a better first 
choice given her symptoms. 

#Headache- Had head ache which resolve with acetaminophen on 
hospital day 2. Subsequently she developed migraine similar 
previous migraines. Recision was mad to refrained from NSAIDS or 
triptans given recent NSTEMI. 

#Asymptomatic bacteriuria: No pyuria on UA. Patient denied 
symptoms upon arrival to floor and did not develop fever of 
leukocytosis while admitted. Treatment deferred. 

Transitional Issues
===================
[]Chest pain-resolved with addition of amlodipine for suspected 
vasospasm. Please consider addition of beta-blocker in future if 
blood pressure allows.
[]Migraines- patient reports migraines in the past. Given recent 
NSTEMI we deferred starting triptans and NSAIDs. Consider 
referral to neurologist for future management
[]Atorvastatin was increased to 80mg daily (from prior dose of 
40mg). Please monitor for myalgias and consider checking LFTs at 
outpatient followup. 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Nicotine Patch 14 mg TD DAILY 
4. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp 
5. Vitamin D 1000 UNIT PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Prasugrel 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Aspirin EC 81 mg PO DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Nicotine Patch 14 mg TD DAILY  
7.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp  
8.  Prasugrel 10 mg PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
1) Chest pain 

Secondary Diagnosis
===================
1) Headache 
2) CAD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had chest pain.  

What happened while I was in the hospital?  
-You had EKGs and blood work that did not show evidence of a 
heart attack. You were given medicine to prevent your heart 
vessels from going into spasm in case this was the cause of your 
chest pain. You also had a blood test that showed this pain was 
not due to a clot in your lungs. 

What should I do after leaving the hospital?  
-Please take your medications as listed in discharge summary and 
follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___